US08729078B2
In a 25 mL round-bottomed flask, 6-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (122 mg, 442 μmol), 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one (155 mg, 442 μmol, Eq: 1.00) and copper acetate (108 mg) were combined with 1,2-dichloroethane (3.89 ml) to give a blue suspension. Pyridine (69.8 mg, 71.4 μl, 883 μmol, Eq: 2) was added. The reaction mixture was heated to 45° C. and stirred for 2 d. The reaction mixture was poured into 20 mL sat NH4Cl and extracted with EtOAc (3×20 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 40 g, 5% to 10% MeOH in DCM), then by HPLC to give 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (22 mg, 8%)

reactant | 6-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 442 μmol, 122 mg | O=S1(CCN(CC1)C1=CC=C2C(=N1)NC=C2C#N)=O | C12H12N4O2S
reactant | 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one | 442 μmol, 155 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=CC=CC=2B(OCC21)O | C19H18BFN2O3
reactant | Pyridine | 883 μmol, 71.4 μl, 69.8 mg | N1=CC=CC=C1 | C5H5N
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | copper acetate | 108 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | 1,2-dichloroethane | 3.89 ml | ClCCCl | C2H4Cl2
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 22 mg, 8% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)N2CCS(CC2)(=O)=O)C#N)CO | C31H29FN6O4S
